US04154834
Reaction of ethyl acetoacetate with sodium ethoxide and 3-(chloromethyl)pyridine gives ethyl α-(3-pyridylmethyl)acetoacetate which gives 5-(3-pyridylmethyl)-6-methyl-2-thiouracil m.p. 332°-335° when treated with thiourea and sodium ethoxide. Substitution of 5-(3-pyridylmethyl)-6-methyl-2-thiouracil for 5-(4-pyridylmethyl)-2-thiouracil in the general procedure of Example 1 gives 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(3-pyridylmethyl)-6-methyl-4-pyrimidone, m.p. 128°-131°. 5-(3-Pyridylmethyl)-6-methyl-2-methylthio-4-pyrimidone and m.p. 208°-211°.

reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 3-(chloromethyl)pyridine | ClCC=1C=NC=CC1 | C6H6ClN
product | ethyl α-(3-pyridylmethyl)acetoacetate | N1=CC(=CC=C1)CC(C(=O)OCC)C(=O)C | C12H15NO3
